US07220864B2
3-(5-hydroxy-3,4-dihydronaphthalen-1-yl)propanoic acid
To pyridine hydrochloride (200 g), 3-(5-methoxy-3,4-dihydronaphthalen-1-yl)propanoic acid (25.1 g; known compound (see J. Chem. Soc. Perkin Trans. I., 1739–1742(1987)) was added, followed by stirring at 180° C. for 3 hours. The reaction mixture was cooled to room temperature, and diluted with water. The aqueous layer was acidified with a concentrated hydrochloric acid. The aqueous layer was extracted with an ethyl acetate. The extract was extracted with a saturated aqueous sodium hydrogen carbonate solution. The combined aqueous layer was acidified with a concentrated hydrochloric acid, followed by extracting with an ethyl acetate. The combined organic layer was washed with a saturated saline, dried with anhydrous sodium sulfate, and concentrated under reduced pressure to thereby obtain the title compound (11.8 g) having the following physical data.

reactant | pyridine hydrochloride | 200 g | Cl.N1=CC=CC=C1
reactant | 3-(5-methoxy-3,4-dihydronaphthalen-1-yl)propanoic acid | COC1=C2CCC=C(C2=CC=C1)CCC(=O)O | C14H16O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-(5-hydroxy-3,4-dihydronaphthalen-1-yl)propanoic acid | 11.8 g | OC1=C2CCC=C(C2=CC=C1)CCC(=O)O | C13H14O3
